US08134007B2
N-[6-Amino-5-(2,5-dichlorophenyl)pyridin-2-yl]-1,2,5-oxadiazole-3-carboxamide was prepared by a method analogous to Method A, as described for Example 1 above, using 3-(2,5-dichlorophenyl)pyridine-2,6-diamine (Preparation 7), 1 equivalent lutidine and 1 equivalent acid chloride prepared from 1,2,5-oxadiazole-3-carboxylic acid.

reactant | 3-(2,5-dichlorophenyl)pyridine-2,6-diamine | ClC1=C(C=C(C=C1)Cl)C=1C(=NC(=CC1)N)N | C11H9Cl2N3
reactant | lutidine | 1 equivalent | N1=C(C=CC=C1C)C | C7H9N
reactant | 1,2,5-oxadiazole-3-carboxylic acid | O1N=C(C=N1)C(=O)O | C3H2N2O3
product | N-[6-Amino-5-(2,5-dichlorophenyl)pyridin-2-yl]-1,2,5-oxadiazole-3-carboxamide | NC1=C(C=CC(=N1)NC(=O)C1=NON=C1)C1=C(C=CC(=C1)Cl)Cl | C14H9Cl2N5O2
